US07989633B2
Ethyl 5-benzoyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-6-(trifluoromethyl)-1,4-dihydro-pyridine-3-carboxylate
A solution of 410 mg (1.06 mmol) of 4,4,4-trifluoro-2-[(2-methyl-4-oxo-4H-chromen-8-yl)-methylene]-1-phenylbutane-1,3-dione in 10 ml of 2-propanol is mixed with 137.3 mg (1.06 mmol) of ethyl 3-aminocrotonate and stirred under reflux for 12 h. After cooling, the reaction mixture is concentrated, and the residue is taken up in 5 ml of acetic acid and again stirred under reflux for 12 h. The reaction solution is concentrated and the residue is purified by preparative HPLC. 160.3 mg (30.3% of theory) of the title compound are obtained.

reactant | 4,4,4-trifluoro-2-[(2-methyl-4-oxo-4H-chromen-8-yl)-methylene]-1-phenylbutane-1,3-dione | 1.06 mmol, 410 mg | FC(C(C(C(=O)C1=CC=CC=C1)=CC=1C=CC=C2C(C=C(OC12)C)=O)=O)(F)F | C21H13F3O4
reactant | ethyl 3-aminocrotonate | 1.06 mmol, 137.3 mg | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | Ethyl 5-benzoyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-6-(trifluoromethyl)-1,4-dihydro-pyridine-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C(C(=C(NC1C(F)(F)F)C)C(=O)OCC)C=1C=CC=C2C(C=C(OC12)C)=O | C27H22F3NO5
